US04859761
N-Allyl-N'-phenylcarbodiimide
0.77 g of N-allyl-N'-phenylthiourea, 0.97 g of triethylamine und 1.2 g of 2-chloro-1-methylpyridinium iodide are reacted and worked up as described in Example 4. The product is obtained as a pale yellow oil.

reactant | N-allyl-N'-phenylthiourea | 0.77 g | C(C=C)NC(=S)NC1=CC=CC=C1 | C10H12N2S
reactant | 2-chloro-1-methylpyridinium iodide | [I-].ClC1=[N+](C=CC=C1)C
solvent | triethylamine | 0.97 g | C(C)N(CC)CC | C6H15N
product | N-Allyl-N'-phenylcarbodiimide | C(C=C)N=C=NC1=CC=CC=C1 | C10H10N2
